US07772190B2
3.3 g (9.9 mmol) of N-benzyl-N-methyl-L-alanyl-D-lactic acid piperidide are hydrogenated in 100 ml of ethanol in the presence of 0.35 g of Pd(OH)2-carbon [20% Pd content] until absorption of hydrogen is complete (about 4 hours). After filtering off the catalyst, the entire reaction solution is concentrated in vacuo. 2.4 g (100% of theory) of N-methyl-L-alanyl-D-lactic acid piperidide are obtained.

reactant | N-benzyl-N-methyl-L-alanyl-D-lactic acid piperidide | 9.9 mmol, 3.3 g | C(C1=CC=CC=C1)N([C@@H](C)C(=O)[C@@](C(=O)N1CCCCC1)(O)C)C | C19H28N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd(OH)2 carbon | 0.35 g | [OH-].[OH-].[Pd+2].[C]
product | N-methyl-L-alanyl-D-lactic acid piperidide | 2.4 g, 100% | CN[C@@H](C)C(=O)[C@@](C(=O)N1CCCCC1)(O)C | C12H22N2O3
